US07034052B2
To a solution of (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (500 mg, 1.1 mmol) in acetonitrile (5 mL) was added 3,3-dimethyl-butyryl chloride (0.2 mL, 1.4 mmol) at room temperature and kept for 24 hrs. The solution was extracted with ethyl acetate (50 mL) and sodium hydrogen carbonate (50 mL, sat). The organic layer was dried over MgSO4. Filtration and removal of solvent gave (1R)-cyclopropanecarboxylic acid {2-[2-(3,3-dimethyl-butyryloxycarbamoyl)-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (360 mg, 59% yield): mp, 118–120° C.; 1H NMR (DMSO-d6) δ 0.87–0.89 (m, 4H, 2CH2), 0.98 (s, 9H, 3CH3), 1.31 (t, J=7 Hz, 3H, CH3), 1.73–1.80 (m, 1H, CH), 2.27 (s, 2H, CH2), 3.03–3.06 (m, 2H, CH2), 3.73 (s, 3H, CH3), 3.97–4.03 (m, 2H, CH2), 4.18 (d, J=18 Hz, 1H, NCHH), 4.59 (d, J=18 Hz, 1H, NCHH), 5.67 (t, J=8 Hz, 1H, NCH), 6.86–6.94 (m, 3H, Ar), 7.18 (d, J=8 Hz, 1H, Ar), 7.49 (d, J=8 Hz, 1H, Ar), 8.22 (d, J=8 Hz, 1H, Ar), 10.55 (s, 1H, NH), 11.82 (s, 1H, NH); 13C NMR (DMSO-d6) δ 7.75, 14.70, 15.46, 29.12, 30.53, 34.67, 44.24, 46.62, 51.11, 55.47, 63.80, 111.94, 112.09, 116.78, 117.33, 117.48, 119.25, 131.23, 132.73, 136.98, 142.26, 147.95, 148.56, 166.54, 168.06, 169.34, 171.70; Anal Calcd for C30H37N3O7+0.1 H2O: C, 65.11; H, 6.78; N, 7.59. Found: C, 64.87; H, 6.87; N, 7.48.

reactant | (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 1.1 mmol, 500 mg | C(C)OC=1C=C(C=CC1OC)[C@@H](CC(NO)=O)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C24H27N3O6
reactant | 3,3-dimethyl-butyryl chloride | 1.4 mmol, 0.2 mL | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (1R)-cyclopropanecarboxylic acid {2-[2-(3,3-dimethyl-butyryloxycarbamoyl)-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 360 mg, 59% yield | CC(CC(=O)ONC(=O)C[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1)(C)C | C30H37N3O7
